US09351973B2
Step C. 3-methyl-2-(pyridin-3-yl)-6,7-dihydropyrazolo[1,5-a]pyrimidin-5(4H)-one
Ethyl acrylate (0.5 mL) was added to a solution of 4-methyl-3-(pyridin-3-yl)-1H-pyrazol-5-amine (300 mg, 1.72 mmol) in pyridine (4 mL) and water (1 mL) and the resulting mixture heated to reflux overnight. After cooling to rt, the solvent was removed in vacuo and the residue re-crystallized from MeOH to give the desired product: MS (m/z): 229.1 [M+H]+, 1HNMR (400 MHz, CD3OD) δ 8.80 (d, 1 H, J=1.2 Hz), 8.53 (dd, 1 H, J=1.2 Hz, J=4.8 Hz), 8.07-8.09 (m, 1 H), 7.52 (dd, 1 H, J=4.8 Hz, J=8.0 Hz), 4.36 (t, 2 H, J=7.2 Hz), 2.94 (t, 2 H, J=7.2 Hz), 2.13 (s, 3 H).

reactant | Ethyl acrylate | 0.5 mL | C(C=C)(=O)OCC | C5H8O2
reactant | 4-methyl-3-(pyridin-3-yl)-1H-pyrazol-5-amine | 1.72 mmol, 300 mg | CC=1C(=NNC1N)C=1C=NC=CC1 | C9H10N4
solvent | pyridine | 4 mL | N1=CC=CC=C1 | C5H5N
solvent | water | 1 mL | O | H2O
product | 3-methyl-2-(pyridin-3-yl)-6,7-dihydropyrazolo[1,5-a]pyrimidin-5(4H)-one | CC=1C(=NN2C1NC(CC2)=O)C=2C=NC=CC2 | C12H12N4O
